2130-05-13 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discussion with family regarding goals of care. Family states they
   would like to minimize suffering however patient is FULL Code at this
   time.
   - Given hydrocortisone
   - improved ABGs in afternoon and overnight
   Allergies:
   Ace Inhibitors
   Hives; edema of
   Last dose of Antibiotics:
   Ceftriaxone - [**2130-5-11**] 09:00 PM
   Levofloxacin - [**2130-5-11**] 09:00 PM
   Vancomycin - [**2130-5-11**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-11**] 11:45 PM
   Meropenem - [**2130-5-13**] 02:00 AM
   Metronidazole - [**2130-5-13**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-12**] 04:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-13**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 57 (40 - 70) bpm
   BP: 127/41(67) {89/34(52) - 134/50(68)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,087 mL
                                                                    296 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                    616 mL
                                                                    260 mL
   Urine:
                                                                    591 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,471 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.28/59/190/26/0
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: normal S1/S2, +systolic murmur, bradycardic
   Respiratory / Chest: Course sounds, poor effort, no wheezing.
   Abdominal: Soft, Non-tender, Bowel sounds present, slightly distended,
   soft, reports mild diffuse TTP.
   Extremities: 2+ bilat pitting edema
   Neurologic: Attentive, Follows commands, Oriented to person, place,
   year not month, Drowsy but arousable.
   Labs / Radiology
   202 K/uL
   8.3 g/dL
   109 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   78 mg/dL
   98 mEq/L
   133 mEq/L
   26.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2130-5-12**]  04:55 AM
                             [**2130-5-12**]  06:28 AM
                             [**2130-5-12**]  11:07 AM
                             [**2130-5-12**]  03:00 PM
                             [**2130-5-12**]  03:03 PM
                             [**2130-5-12**]  07:45 PM
                             [**2130-5-12**]  11:08 PM
                             [**2130-5-12**]  11:24 PM
                             [**2130-5-13**]  03:47 AM
                             [**2130-5-13**]  04:08 AM
   WBC
   9.7
   7.4
   Hct
   31.7
   26.2
   Plt
   224
   202
   Cr
   2.4
   2.4
   2.2
   2.2
   TropT
   0.04
   TCO2
   30
   30
   29
   28
   30
   29
   Glucose
   160
   111
   122
   109
   Other labs: PT / PTT / INR:15.2/36.0/1.3, CK / CKMB /
   Troponin-T:82//0.04, ALT / AST:14/20, Alk Phos / T Bili:88/0.2, Amylase
   / Lipase:/36, Differential-Neuts:91.1 %, Lymph:5.8 %, Mono:2.7 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:191 IU/L,
   Ca++:8.2 mg/dL, Mg++:3.1 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   86F with known asymptomatic sinus bradycardia, HTN; admit to MICU with
   ARF, hyperkalemia, and worsened bradycardia; briefly asystolic and
   hypotensive upon arrival to MICU.
   .
   # Hypotension.  Requiring pressors.  Differential includes rate
   related/due to bradycardia, increased vagal stim with constipation/BMs,
   sepsis, hypovolemia from poor po or other cause, ACS/CHF or other cause
   of cardiogenic shock.  Both BP and HR improved with dopamine, which
   could be due to effects on HR, PVR, or both.
   - Continue peripheral dopa for now, try to wean overnight.
   - Vigileo in place; bolus prn with NS/LR.
   - Broad spectrum antibiotics of vanco, meropenem (had ESBL E.coli in
   past), flagyl (coverage of c.diff now that having diarrhea).  Hold off
   on further levofloxacin for now given bradycardia with mildly prolonged
   QT.  Check legionella urinary Ag.  Blood cultures, urine culture (both
   at outside lab and resend here), C.diff, sputum if produces.
   - Placement of CVL desirable, but not clear if within patient's
   wishes.  Aline in place.
   - Continue to follow mental status, UOPs, lactates.
   - Check CEs.
   - Continued goals of care discussions with family, as patient unable to
   make decisions currently.  They have been reluctant to act as proxy
   thus far.  HCP does feel she would want continued care at current level
   of support, but would not yet want dialysis or central line placement
   without further thinking about it.  Hope for improvement in patient's
   mental status with treatment of hypotension in order to further discuss
   desired therapies.
   .
   # ARF.  Differential includes prerenal (hypovolemia, hypotension from
   sepsis or bradycardia), med/NSAID related.  Postrenal unlikely given
   imaging. Appears to be volume down given vigileo findings and history.
   Unfortunately has not yet responded to fluid boluses and basically
   anuric.
   - UA and urine lytes when pees.  Check urine sediment.  Renal on board.
   - Repeat lytes Q2-4H for now.
   - Bolus 1-2 liters now, attempt to wean dopa but continue to support
   BPs for adequate perfusion.  Management of hypotension as above.
   - Hold NSAIDs.
   .
   # Bradycardia.  baseline sinus brady for unclear reasons, but
   asymptomatic with this and with adequate BPs.  Sees cards as
   outpatient.  Now with worsening from baseline (still in sinus, no noted
   block, ?related to hyperkalemia. ?related to increased vagal stim with
   constipation/BMs.
   - On dopa for BP and HR support.
   - Pacer pads on.
   - Consider cards consult in AM; unclear that urgent consult indicated
   as would not want further invasive procedures at this time (no temp
   wires).
   - Consider urgent HD if feeling that hyperK contributing.
   .
   # Hyperkalemia.  From ARF above.  Improving with subsequent labs.
   - Stooling s/p kayex 90 g total.
   - Recheck K q2-4H.
   - Renal on board, will see in AM.  No urgent need for HD at the current
   time, but patient quite fragile and may need in the next 12-24 hours,
   especially if hyperK unmanageable or not making urine.
   .
   # Hypercarbic/hypoxic respiratory failure.  Large part acute
   respiratory acidosis.  Differential includes pneumonia, volume
   overload, atelectasis/poor inspiration related to gastric distension,
   hypoventilation from muscle weakness, med effect.
   - Repeat ABG.
   - Consider noninvasives if still with hypercarbia and mental status and
   family/patient wishes allow.
   - Treatment of pneumonia.
   - Check BNP.
   .
   # Pneumonia.  HCAP vs. aspiration.  Vanc/[**Last Name (un) **] as above plus received
   levoflox in ED (and will be around for awhile with renal failure).
   - Check Legionella UAg.
   - Antibiotics and respiratory support as above.
   .
   # Hypothermia.  With above abnls, concerning for sepsis.  Sources
   include ?pneumonia, ?urinary, ?C.diff.
   - Abx as above.
   .
   # Hyponatremia.  Responding to fluids.
   - urine studies when pees.
   - continue to volume replete.
   .
   # ?Cystitis.  By imaging, but negative [**Hospital1 69**] UA earlier today.  Of note,
   patient does have history of ESBL E.coli UTI.
   - abx as above; needs resend urine culture and analysis.  will need to
   f/u urines from [**Hospital1 69**].
   .
   # Altered mental status.  From multiple metabolic/electrolyte abnls as
   above and hypotension.
   - Management of the above.
   .
   # Anemia.  Normocytic; near past baselines.  On B12 for pernicious
   anemia. G+ in ED.
   - Repeat in AM.
   - Guiaiac stools.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-5-11**] 09:45 PM
   Arterial Line - [**2130-5-11**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-13 08:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains full code apparently
   Still having some pauses
   Resp status remains tenuous
   Allergies:
   Ace Inhibitors
   Hives; edema of
   Last dose of Antibiotics:
   Ceftriaxone - [**2130-5-11**] 09:00 PM
   Levofloxacin - [**2130-5-11**] 09:00 PM
   Vancomycin - [**2130-5-11**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-11**] 11:45 PM
   Meropenem - [**2130-5-13**] 02:00 AM
   Metronidazole - [**2130-5-13**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-13**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-13**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.2
C (97.2
   HR: 47 (40 - 70) bpm
   BP: 135/50(75) {89/34(52) - 135/50(75)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,087 mL
                                                                    471 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                    616 mL
                                                                    380 mL
   Urine:
                                                                    591 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,471 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.28/59/190/26/0
   PaO2 / FiO2: 380
   Physical Examination
   Comfortable, no distress
   Lung exam poor effort
   Rrr
   Abd benign
   No edema
   Labs / Radiology
   8.3 g/dL
   202 K/uL
   109 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   78 mg/dL
   98 mEq/L
   133 mEq/L
   26.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2130-5-12**]  04:55 AM
                             [**2130-5-12**]  06:28 AM
                             [**2130-5-12**]  11:07 AM
                             [**2130-5-12**]  03:00 PM
                             [**2130-5-12**]  03:03 PM
                             [**2130-5-12**]  07:45 PM
                             [**2130-5-12**]  11:08 PM
                             [**2130-5-12**]  11:24 PM
                             [**2130-5-13**]  03:47 AM
                             [**2130-5-13**]  04:08 AM
   WBC
   9.7
   7.4
   Hct
   31.7
   26.2
   Plt
   224
   202
   Cr
   2.4
   2.4
   2.2
   2.2
   TropT
   0.04
   TCO2
   30
   30
   29
   28
   30
   29
   Glucose
   160
   111
   122
   109
   Other labs: PT / PTT / INR:15.2/36.0/1.3, CK / CKMB /
   Troponin-T:82//0.04, ALT / AST:14/20, Alk Phos / T Bili:88/0.2, Amylase
   / Lipase:/36, Differential-Neuts:91.1 %, Lymph:5.8 %, Mono:2.7 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:191 IU/L,
   Ca++:8.2 mg/dL, Mg++:3.1 mg/dL, PO4:6.5 mg/dL
   CXR bibasilar infiltrates
   Assessment and Plan
 RESPIRATORY distress
 due to pneumonia, ABG and oxygenation stable,
   broad abx coverage, wean Os as tolerated
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 creatinine stable,
   follow, keep volume even
 BRADYCARDIA
 still having AV blocks periodically
 HYPOTENSION (NOT SHOCK)   stable BP, pressors off since this morning,
   wean hydrocort
   Anemia
 recheck CBC
   ICU Care
   Nutrition: taking PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-5-11**] 09:45 PM
   Arterial Line - [**2130-5-11**] 10:03 PM
   Prophylaxis:
   DVT:   heparin, boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  37

2130-05-14 07:25:00 Physician Resident Progress Note
Chief Complaint: Bradycardia, hypotension
   24 Hour Events:
   - Decreased hydrocortisone to 50mg q8 from q6
   - Goal I/O even
   - Cultures negative
   - Patient made DNR, may intubate
   Allergies:
   Ace Inhibitors
   Hives; edema of
   Last dose of Antibiotics:
   Ceftriaxone - [**2130-5-11**] 09:00 PM
   Levofloxacin - [**2130-5-11**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-11**] 11:45 PM
   Vancomycin - [**2130-5-13**] 02:01 PM
   Metronidazole - [**2130-5-14**] 02:00 AM
   Meropenem - [**2130-5-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-13**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 50 (42 - 71) bpm
   BP: 114/33(57) {106/33(57) - 148/52(82)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,481 mL
                                                                    340 mL
   PO:
             TF:
                                                                    160 mL
                                                                    140 mL
   IVF:
                                                                    701 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    290 mL
   Urine:
                                                                  1,095 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.29/66/106/28/2
   PaO2 / FiO2: 212
   Physical Examination
   GEN:
   HEENT:
   NECK:
   PULM:
   CARD:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   232 K/uL
   8.8 g/dL
   114 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   68 mg/dL
   101 mEq/L
   139 mEq/L
   27.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2130-5-12**]  11:08 PM
                             [**2130-5-12**]  11:24 PM
                             [**2130-5-13**]  03:47 AM
                             [**2130-5-13**]  04:08 AM
                             [**2130-5-13**]  08:11 AM
                             [**2130-5-13**]  04:25 PM
                             [**2130-5-13**]  04:32 PM
                             [**2130-5-13**]  09:08 PM
                             [**2130-5-14**]  03:56 AM
                             [**2130-5-14**]  04:16 AM
   WBC
   7.4
   8.6
   10.3
   Hct
   26.2
   27.6
   27.1
   Plt
   [**Telephone/Fax (3) 5337**]
   Cr
   2.2
   2.2
   1.6
   1.5
   TCO2
   30
   29
   32
   30
   33
   Glucose
   122
   109
   124
   114
   Other labs: PT / PTT / INR:14.7/34.2/1.3, CK / CKMB /
   Troponin-T:82//0.04, ALT / AST:14/20, Alk Phos / T Bili:88/0.2, Amylase
   / Lipase:/36, Differential-Neuts:91.1 %, Lymph:5.8 %, Mono:2.7 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:191 IU/L,
   Ca++:8.7 mg/dL, Mg++:3.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   86F with known asymptomatic sinus bradycardia, HTN; admit to MICU with
   ARF, hyperkalemia, and worsened bradycardia; briefly asystolic and
   hypotensive upon arrival to MICU.
   # Hypotension.  Required pressors, now dopamine is off as of 5am [**5-13**].
   Differential includes rate related/due to bradycardia, increased vagal
   stim with constipation/BMs, sepsis, hypovolemia from poor po or other
   cause, ACS/CHF or other cause of cardiogenic shock.  Both BP and HR
   improved with dopamine, which could be due to effects on HR, PVR, or
   both.  Cardiac enzymes negative.
   - no central access so would use dopa again if needed.
   - Vigileo in place; bolus prn with NS/LR.
   - Broad spectrum antibiotics of vanco, meropenem (had ESBL E.coli in
   past), flagyl (coverage of c.diff now that having diarrhea).  Hold off
   on further levofloxacin for now given bradycardia with mildly prolonged
   QT.  f/u Blood cultures, urine culture (both at outside lab and here),
   legionella -ve, C.diff -ve, send sputum if produces.
   - Placement of CVL desirable, but not clear if within patient's
   wishes.  Aline in place. Use peripherals for now
   - Continue to follow mental status, UOPs, lactates.
   - Continued goals of care discussions with family, as patient unable to
   make decisions currently.  They have been reluctant to act as proxy
   thus far.  HCP does feel she would want continued care at current level
   of support, but would not yet want dialysis or central line placement
   without further thinking about it.  Hope for improvement in patient's
   mental status with treatment of hypotension in order to further discuss
   desired therapies.
   # ARF.  Differential includes prerenal (hypovolemia, hypotension from
   sepsis or bradycardia), med/NSAID related.  Postrenal unlikely given
   imaging. Appears to be volume down given vigileo findings and history.
   Unfortunately has not improved significantly with fluid boluses. Had Cr
   of 0.8 in [**2128**], unclear if she is at a new baseline.
   - UA -ve and urine culture -ve. Renal on board.
   - Bolus PRN, attempt to avoid dopa but continue to support BPs for
   adequate perfusion.  Management of hypotension as above.
   - Hold NSAIDs.
   # Bradycardia.  baseline sinus brady for unclear reasons, but
   asymptomatic with this and with adequate BPs.  Sees cards as
   outpatient.  Now with worsening from baseline (still in sinus, no noted
   block, ?related to hyperkalemia. ?related to increased vagal stim with
   constipation/BMs. Had multiple pauses overnight and this morning up to
   4 seconds.
   - can use dopa PRN for BP and HR support.
   - Pacer pads on.
   - Consider cards consult; unclear if invasive procedures would be
   indicated however.
   # Hyperkalemia.  From ARF above.  Improving with subsequent labs.
   - Stooling s/p kayex 90 g total.
   - Renal on board and following.
   # Hypercarbic/hypoxic respiratory failure.  Large part acute
   respiratory acidosis.  Differential includes pneumonia, volume
   overload, atelectasis/poor inspiration related to gastric distension,
   hypoventilation from muscle weakness, med effect.
   - follow ABG.
   - Consider noninvasives if still with hypercarbia and mental status and
   family/patient wishes allow.
   - Treatment of pneumonia, antibiotics as above.
   - Check BNP.
   # Pneumonia.  HCAP vs. aspiration.  Vanc/[**Last Name (un) **] as above plus received
   levoflox in ED (and will be around for awhile with renal failure). -ve
   Legionella UAg.
   - Antibiotics and respiratory support as above.
   # Hyponatremia.  Responded to fluids.
   - continue to volume replete.
   # ?Cystitis.  By imaging, but negative [**Hospital1 69**] UA earlier today.  Of note,
   patient does have history of ESBL E.coli UTI.
   - abx as above; has -ve urine culture and analysis.  will need to f/u
   urines from [**Hospital1 69**].
   # Altered mental status.  From multiple metabolic/electrolyte abnls as
   above and hypotension.
   - Management of the above.
   # Anemia.  Normocytic; near past baselines, but dropped overnight to
   26.2. Repeat showed stable at 27.6.  On B12 for pernicious anemia. G+
   in ED.
   - follow HCT.
   - Guiaiac stools.
   ICU Care
   Nutrition: Replete with fiber Full strength; Goal rate: 50 ml/hr
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2130-5-11**] 09:45 PM
   Arterial Line - [**2130-5-11**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-14 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 3127**]
 note today, including assessment and plan.
   HPI:
   24 Hour Events:
   Hydrocort weaned
   Mental status improved
   Allergies:
   Ace Inhibitors
   Hives; edema of
   Last dose of Antibiotics:
   Ceftriaxone - [**2130-5-11**] 09:00 PM
   Levofloxacin - [**2130-5-11**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-11**] 11:45 PM
   Vancomycin - [**2130-5-13**] 02:01 PM
   Metronidazole - [**2130-5-14**] 02:00 AM
   Meropenem - [**2130-5-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-13**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-14**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 50 (42 - 71) bpm
   BP: 114/33(57) {106/33(57) - 148/52(82)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 99% 2LPM NC
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,481 mL
                                                                    340 mL
   PO:
             TF:
                                                                    160 mL
                                                                    140 mL
   IVF:
                                                                    701 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    290 mL
   Urine:
                                                                  1,095 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.29/66/106/28/2
   Physical Examination
   Awake, alert, conversant
   No distress
   Decreased bs
   Hrt brady
   Abd benign
   Extreme edematous
   Labs / Radiology
   8.8 g/dL
   232 K/uL
   114 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   68 mg/dL
   101 mEq/L
   139 mEq/L
   27.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2130-5-12**]  11:08 PM
                             [**2130-5-12**]  11:24 PM
                             [**2130-5-13**]  03:47 AM
                             [**2130-5-13**]  04:08 AM
                             [**2130-5-13**]  08:11 AM
                             [**2130-5-13**]  04:25 PM
                             [**2130-5-13**]  04:32 PM
                             [**2130-5-13**]  09:08 PM
                             [**2130-5-14**]  03:56 AM
                             [**2130-5-14**]  04:16 AM
   WBC
   7.4
   8.6
   10.3
   Hct
   26.2
   27.6
   27.1
   Plt
   [**Telephone/Fax (3) 5337**]
   Cr
   2.2
   2.2
   1.6
   1.5
   TCO2
   30
   29
   32
   30
   33
   Glucose
   122
   109
   124
   114
   Other labs: PT / PTT / INR:14.7/34.2/1.3, CK / CKMB /
   Troponin-T:82//0.04, ALT / AST:14/20, Alk Phos / T Bili:88/0.2, Amylase
   / Lipase:/36, Differential-Neuts:91.1 %, Lymph:5.8 %, Mono:2.7 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:191 IU/L,
   Ca++:8.7 mg/dL, Mg++:3.0 mg/dL, PO4:4.6 mg/dL
   CXR stable bibasilar infiltrates
   Assessment and Plan
 RESPIRATORY distress
 due to pneumonia, ABG and oxygenation stable,
   broad abx coverage, wean Os as tolerated
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 creatinine
   improving, follow, keep volume even
 BRADYCARDIA
 still having AV blocks periodically, does not want
   pacer and is DNR
 HYPOTENSION (NOT SHOCK)   stable BP, pressors off since yesterday
   morning, wean hydrocort
   Anemia
 stable Hct
   ICU Care
   Nutrition:  TFs, swallow eval tomorrow
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-5-11**] 09:45 PM
   Arterial Line - [**2130-5-11**] 10:03 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  transfer